US09388189B2
(S)-2-(1-((6-Amino-5-(1-((4-methoxyphenyl)sulfonyl)-1H-indol-6-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
((S)-2-(1-((6-Amino-5-(1H-indol-6-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (126 mg, 0.26 mmol) was added to a suspension of sodium hydride (14 mg, 0.37 mmol, 60% dispersion in mineral oil) at 0° C. After 30 min., 4-methoxybenzene-1-sulfonyl chloride was added dropwise. After 10 min. the reaction was let to warm to room temperature. After 1 h the crude was poured over a mixture of ice and water. Ethyl acetate was added and the organic phase was washed with water and brine. After evaporation of the solvent, the residue was purified by flash chromatography using SP1® Purification System (50-100% hexane/Ethyl acetate) to give 75 mg (42% yield). Purity 97%.

reactant | (S)-2-(1-((6-Amino-5-(1H-indol-6-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.26 mmol, 126 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC=C1C=CNC1=C2 | C27H24N8O
reactant | sodium hydride | 0.37 mmol, 14 mg | [H-].[Na+]
reactant | 4-methoxybenzene-1-sulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(1-((6-Amino-5-(1-((4-methoxyphenyl)sulfonyl)-1H-indol-6-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 42% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC=C1C=CN(C1=C2)S(=O)(=O)C2=CC=C(C=C2)OC | C34H30N8O4S
